US06353010B1
4-Bromo-7-methoxy-3-(4-methoxybenzyl)-2-trifluoromethylbenzimidazole
Sodium hydride (0.16 g; 60% dispersion in oil) was added to a solution of 4-bromo-7-methoxy-2-trifluoromethylbenzimidazole (1.0 g) in N,N-dimethylformamide (20 ml). The mixture was stirred at room temperature for 10 minutes before addition of 4-methoxybenzyl chloride (0.56 ml) and catalytic tetrabutylammonium iodide. The reaction was heated at 90° C. for 6 h, then poured into water (100 ml) and extracted with ethyl acetate (2×100 ml). The combined organic phases were washed with water (100 ml) and brine (50 ml), dried over magnesium sulphate, evaporated in vacuo and purified by flash chromatography eluting with 33% ethyl acetate in hexane to afford the title compound as a white solid (0.52 g).

reactant | Sodium hydride | 0.16 g | [H-].[Na+]
reactant | 4-bromo-7-methoxy-2-trifluoromethylbenzimidazole | 1.0 g | BrC1=CC=C(C=2N=C(NC21)C(F)(F)F)OC | C9H6BrF3N2O
reactant | 4-methoxybenzyl chloride | 0.56 ml | COC1=CC=C(CCl)C=C1 | C8H9ClO
reactant | water | 100 ml | O | H2O
solvent | N,N-dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
catalyst | tetrabutylammonium iodide | [I-].C(CCC)[N+](CCCC)(CCCC)CCCC
product | 4-Bromo-7-methoxy-3-(4-methoxybenzyl)-2-trifluoromethylbenzimidazole | 0.52 g | BrC1=CC=C(C=2N=C(N(C21)CC2=CC=C(C=C2)OC)C(F)(F)F)OC | C17H14BrF3N2O2
